US04443443
To a solution of potassium hydroxide (4.9 g) in methanol (40 ml) was added 3-(4-isopropyl-1-piperazinyl)propylamine (14.7 g) and thereto was added carbon disulfide (6.0 g) under ice cooling over a period of 20 minutes. The resulting mixture was stirred for 3.5 hours under ice cooling. The reaction mixture was evaporated under reduced pressure. The residual oil was dissolved in water (40 ml) and washed with diethyl ether. The washed aqueous layer was ice-cooled and thereto was added methyl iodide (11.3 g) with stirring over a period of about 5 minutes. The resulting mixture was stirred for 2 hours under ice-cooling extracted with chloroform. The extract was washed with water, dried over magnesium sulfate and then evaporated to give an oil of methyl N-[3-(4-isopropyl-1-piperazinyl)propyl]dithiocarbamate (15.6 g).

reactant | potassium hydroxide | 4.9 g | [OH-].[K+]
reactant | 3-(4-isopropyl-1-piperazinyl)propylamine | 14.7 g | C(C)(C)N1CCN(CC1)CCCN | C10H23N3
reactant | carbon disulfide | 6.0 g | C(=S)=S | CS2
reactant | methanol | 40 ml | CO | CH4O
product | methyl N-[3-(4-isopropyl-1-piperazinyl)propyl]dithiocarbamate | 15.6 g | C(C)(C)N1CCN(CC1)CCCNC(SC)=S | C12H25N3S2
